US07410963B2
1-Methyl-7-phenyl-5-(3-trifluoromethyl-phenyl)-1,3-dihydro-benzo[e][1,4]diazepin-2-one
Prepared from 5-chloro-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one using the same method described for Example 9 and instead of using 3-formylbenzene boronic acid, we used 3-trifluoromethylphenyl boronic acid. The title compound (30 mg) was obtained as a beige solid, (yield=20%).

reactant | 5-chloro-1-methyl-7-phenyl-1,3-dihydro-benzo[e][1,4]diazepin-2-one | ClC=1C2=C(N(C(CN1)=O)C)C=CC(=C2)C2=CC=CC=C2 | C16H13ClN2O
reactant | 3-formylbenzene boronic acid | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | 3-trifluoromethylphenyl boronic acid | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
product | 1-Methyl-7-phenyl-5-(3-trifluoromethyl-phenyl)-1,3-dihydro-benzo[e][1,4]diazepin-2-one | 30 mg, yield=20% | CN1C(CN=C(C2=C1C=CC(=C2)C2=CC=CC=C2)C2=CC(=CC=C2)C(F)(F)F)=O | C23H17F3N2O
